US06797723B1
Preparation of 2-(3-{3-[4-(3,5-Dimethylisoxazol-4-yl)-2-ethyl-5-hydroxyphenoxy]propoxy}-2-propylphenoxy)benzoic acid sodium salt.
A mixture of 2-(3-{3-[5-benzyloxy-2-ethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester (305 mg, 0.448 mmol), 3,5-dimethyl-4-iodoisoxazole (110 mg, 0.493 mmol), cesium carbonate (293 mg, 0.899 mmol), and PdCl2(dppf) (15 mg, 0.018 mmol) in de-oxygenated toluene (10 mL) was heated at 95° C. for 10 h. Additional portions of 3,5-dimethyl-4-iodoisoxazole (110 mg), cesium carbonate (260 mg), and PdCl2(dppf) (˜15 mg) were added and heating continued at 110° C. for 20 h. The mixture was cooled to room temperature, concentrated in vacuo, diluted with methylene chloride, and filtered down a short plug of silica gel with 20% ethyl acetate/80% hexane. The filtrate was concentrated in vacuo. The resulting colorless oil was dissolved in methylene chloride (4 mL), cooled to 0° C., and treated with iodotrimethylsilane (0.40 mL, 2.7 mmol). The resulting mixture was allowed to warm to room temperature and stirred for 18 h. An additional portion of iodotrimethylsilane (0.70 mL) was added and stirring continued for 72 h. The mixture was poured into dilute sodium thiosulfate solution. The organic layer was separated, washed with water, dried (sodium sulfate), filtered, and concentrated in vacuo. The resulting foam was dissolved in a 1:1 mixture of tetrahydrofuran/l N hydrochloric acid (5 mL) and stirred at room temperature for 18 h. The mixture was concentrated in vacuo and treated with 1 equivalent 1 N sodium hydroxide solution in ether. The resulting mixture was concentrated in vacuo to provide 59 mg (23%) of the title compound as an off-white solid. 1H NMR (DMSO-d6) δ 7.40 (dd, J=9, 2 Hz, 1H), 7.13 (dt, J=8, 2 Hz, 1H), 6.97 (m, 2H), 6.79 (s, 1H), 6.68 (d, J=9 Hz, 1H), 6.65 (d, J=9 Hz, 1H), 6.60 (s, 1H), 6.21 (d, J=8 Hz, 1H), 4.19 (t, J=6 Hz, 2H), 4.01 (t, J=6 Hz, 2H), 2.66 (t, J=8 Hz, 2H), 2.48 (q, J=8 Hz, 2H), 2.24 (s, 3H), 2.17 (quintet, J=6 Hz, 2H), 2.07 (s, 3 H), 1.49 (hextet, J=8 Hz, 2H), 1.07 (t, J=7 Hz, 3H), 0.85 (t, J=7 Hz, 3H); TOF MS ES+ exact mass calculated for C32H36NO7 (p+1): m/z=546.2492. Found: 546.2514; IR (KBr, cm−1) 3400, 1605, 1460.

reactant | 2-(3-{3-[5-benzyloxy-2-ethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester | 0.448 mmol, 305 mg | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C)CC)CCC)=O | C41H49BO8
reactant | 3,5-dimethyl-4-iodoisoxazole | 0.493 mmol, 110 mg | CC1=NOC(=C1I)C | C5H6INO
reactant | cesium carbonate | 0.899 mmol, 293 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,5-dimethyl-4-iodoisoxazole | 110 mg | CC1=NOC(=C1I)C | C5H6INO
reactant | cesium carbonate | 260 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodotrimethylsilane | 2.7 mmol, 0.40 mL | I[Si](C)(C)C | C3H9ISi
reactant | iodotrimethylsilane | 0.70 mL | I[Si](C)(C)C | C3H9ISi
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 1 N, 1 equivalent | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
catalyst | PdCl2(dppf) | 0.018 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | ˜15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-{3-[4-(3,5-Dimethylisoxazol-4-yl)-2-ethyl-5-hydroxyphenoxy]propoxy}-2-propylphenoxy)benzoic acid sodium salt | 59 mg, 23% | [Na+].CC1=NOC(=C1C1=CC(=C(OCCCOC=2C(=C(OC3=C(C(=O)[O-])C=CC=C3)C=CC2)CCC)C=C1O)CC)C | InChI=1S/C32H35NO7.Na/c1-5-11-23-27(14-9-15-28(23)39-29-13-8-7-12-24(29)32(35)36)37-16-10-17-38-30-19-26(34)25(18-22(30)6-2)31-20(3)33-40-21(31)4;/h7-9,12-15,18-19,34H,5-6,10-11,16-17H2,1-4H3,(H,35,36);/q;+1/p-1
